US05175157
3-[(N-(2-(3,4-Dimethoxy-phenyl)-ethyl)-piperidin-3-yl)methyl]-7,8-dimethoxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-1,2-dione
3.8 g (0.0079 mol) of 3-[(N-(2-(3,4-dimethoxy-phenyl)-ethyl)-piperidin-3-yl)-methyl]-7, 8-dimethoxy-1,3,4,5-tetrahydro2H-3-benzazepin-2-one are added at 70° C. to a suspension of 1.4 g (0.0128 mol) of selenium dioxide and 0.8 g of kieselguhr in dioxan/water and refluxed for 16 hours. After cooling, the mixture is diluted with a little ethanol and suction filtered The filtrate is evaporated down in vacuo and purified over 310 g of aluminium oxide (neutral, activity II-III) with methylene chloride and increasing amounts of ethanol (up to 1%).

reactant | 3-[(N-(2-(3,4-dimethoxy-phenyl)-ethyl)-piperidin-3-yl)-methyl]-7, 8-dimethoxy-1,3,4,5-tetrahydro2H-3-benzazepin-2-one | 0.0079 mol, 3.8 g | COC=1C=C(C=CC1OC)CCN1CC(CCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | C28H38N2O5
reactant | selenium dioxide | 0.0128 mol, 1.4 g | [Se](=O)=O | O2Se
solvent | dioxan water | O1CCOCC1.O
solvent | ethanol | C(C)O | C2H6O
product | 3-[(N-(2-(3,4-Dimethoxy-phenyl)-ethyl)-piperidin-3-yl)methyl]-7,8-dimethoxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-1,2-dione | COC=1C=C(C=CC1OC)CCN1CC(CCC1)CN1CCC2=C(C(C1=O)=O)C=C(C(=C2)OC)OC | C28H36N2O6
